US06617346B1
To a solution of 2-hydroxy-4-methoxy-benzonitrile (16.4 g, 134.1 mmol) in ethanol were added potassium carbonate (37.07 g, 268.2 mmol) and 2-iodopropane (40.16 mL, 402.3 mmol). The reaction mixture was heated at gentle reflux for 3.5 h. The solvent was removed to afford a brown paste. It was then taken in diethyl ether (300 mL) and water (200 mL). The layers were separated and the aqueous layer was extracted with diethyl ether (3×100 mL). The combined organic extracts were washed with brine and dried over anhydrous magnesium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 12% ethyl acetate in hexanes yielded 2-isopropoxy-4-methoxy-benzonitrile as a pale-yellow oil (11.8 g, 56%).

reactant | 2-hydroxy-4-methoxy-benzonitrile | 134.1 mmol, 16.4 g | OC1=C(C#N)C=CC(=C1)OC | C8H7NO2
reactant | potassium carbonate | 268.2 mmol, 37.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 402.3 mmol, 40.16 mL | IC(C)C | C3H7I
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
product | 2-isopropoxy-4-methoxy-benzonitrile | 11.8 g, 56% | C(C)(C)OC1=C(C#N)C=CC(=C1)OC | C11H13NO2
